US06949648B2
6-Amino-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
A solution of 3-methyl-6-nitro-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one (4.64 g, 14.4 mmol) and 5% palladium-carbon (4.64 g, 50% hydrate) in N,N-dimethylformamide (400 mL) was stirred at room temperature under hydrogen atmosphere for 4 hours. The reaction solution was filtered to remove the catalyst, and the filtrate was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=99:1 to chloroform:methanol=95:5) to give the title compound (2.86 g, 69% yield).

reactant | 3-methyl-6-nitro-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 14.4 mmol, 4.64 g | CC1=NN(C=2NC3=CC=C(C=C3C(C21)=O)[N+](=O)[O-])C2=NC=CC=C2 | C16H11N5O3
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
catalyst | palladium-carbon | 4.64 g | [C].[Pd]
product | 6-Amino-3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 2.86 g, 69% yield | NC=1C=C2C(C3=C(NC2=CC1)N(N=C3C)C3=NC=CC=C3)=O | C16H13N5O
